US06683087B2
b) 3-(1-Propyl-1,4,5,6-tetrahydro-pyridin-3-yl)-cyclohex-2-enone (GMC6602)
3-Ethynyl-cyclohex-2-enone (3.20 g, 26.8 mmol) (from a) above) and (3-Chloro-propyl)-propyl-amine (4.50 g, 33.2 mmol) were mixed in acetonitril (50 mL). Cs2CO3 (100 mg) and KI (200 mg) were added and the mixture was refluxed under N2 for 10 h. After cooling the mixture was diluted with water (50 mL) and extracted with dichloromethane (3×50 mL). The combined organic layers were washed with brine, dried (MgSO4) and evaporated. The resulting dark oil was purified by column chromatography (silica, ethyl acetate) to give a yellow red oil. Yield 5.1 g, 23.3 mmol (87%). IR (neat) 2932, 2871, 1589, 1538, 1157 cm−; 1H-NMR (CDCl3) δ6.84 (s, 1H), 5.69 (s, 1H), 3.04-3.12 (m, 4H), 2.44 (t, 2H), 2.33 (t,2H), 2.18 (t, 2H), 1.83-2.03 (m, 4H), 1.49-1.64 (m, 2H), 0.87 (t, 3H) ppm; 13C-NMR (CDCl3) δ197.0, 158.5, 140.1, 112.1, 102.4, 56.6, 44.3, 35.6, 23.6, 21.4, 20.2, 20.1, 19.7, 9.6 ppm; MS (CI) m/z 220 (M+1).

reactant | 3-Ethynyl-cyclohex-2-enone | 26.8 mmol, 3.20 g | C(#C)C1=CC(CCC1)=O | C8H8O
reactant | (3-Chloro-propyl)-propyl-amine | 33.2 mmol, 4.50 g | ClCCCNCCC | C6H14ClN
reactant | Cs2CO3 | 100 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetonitril | 50 mL | C(C)#N | C2H3N
solvent | water | 50 mL | O | H2O
product | 3-(1-Propyl-1,4,5,6-tetrahydro-pyridin-3-yl)-cyclohex-2-enone | C(CC)N1C=C(CCC1)C1=CC(CCC1)=O | C14H21NO
